US08357679B2
N-(4-(4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-(1-methylcyclopropyl)propanamide
3-(1-Methylcyclopropyl)propionic acid (1.752 mmol, 0.2 g) was stirred in dichloromethane at 0° C. Oxalyl chloride (8.76 mmol, 0.752 mL, 1.112 g) was added and the reaction stirred overnight. The reaction mixture was concentrated under vacuum to give the intermediate 3-(1-methylcyclopropyl)propanoyl chloride. A mixture of 3-(1-methyl-cyclopropyl)propanoyl chloride (0.813 mmol, 0.119 g), (4-aminophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone (0.542 mmol, 0.25 g) and triethylamine (1.084 mmol, 0.151 mL, 0.110 g) were stirred in dichloromethane at 0° C. for 1 hour. The reaction mixture was allowed to warm to room temperature. The reaction mixture was washed with water, concentrated under vacuum and purified by acidic prep HPLC to afford the title compound (67 mg). MS (ESI) m/z 572.3 [M+H]+

reactant | 3-(1-methyl-cyclopropyl)propanoyl chloride | 0.813 mmol, 0.119 g | CC1(CC1)CCC(=O)Cl | C7H11ClO
reactant | (4-aminophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 0.542 mmol, 0.25 g | NC1=CC=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C21H21F6N3O2
reactant | triethylamine | 1.084 mmol, 0.151 mL, 0.110 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-(4-(4-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-(1-methylcyclopropyl)propanamide | 67 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCN(CC2)C(=O)C2=CC=C(C=C2)NC(CCC2(CC2)C)=O)C=C1)(F)F | C28H31F6N3O3
